US06310061B2
(ii) Methyl 4-{N-[2-(3-(S)-tert-butyldimethylsilyloxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate
To a stirred solution of methyl 4-{N-[2-(3-(S)-hydroxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate (865 mg, 2.44 mmol) in DMF (10 ml) was added imidazole (1.54 g, 24.4 mmol) and tert-butyidimethylsilylchloride (1.83 g, 12.2 mmol) at 0° C. After 3 hr stirring, saturated NaHCO3 aqueous solution was added to the reaction mixture and extracted with CH2Cl2. The extract was washed with water and brine. dried (Na2SO4), and concentrated to give brown oil, which was purified by column chromatography (silica gel; 40 g, CH2Cl2/MeOH: 100/1-50/1) to give 760 mg (66%) of title compound.

reactant | methyl 4-{N-[2-(3-(S)-hydroxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate | 2.44 mmol, 865 mg | O[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)N(C)C1=CC=C(C(=O)OC)C=C1 | C21H26N2O3
reactant | imidazole | 24.4 mmol, 1.54 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyidimethylsilylchloride | 12.2 mmol, 1.83 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | Methyl 4-{N-[2-(3-(S)-tert-butyldimethylsilyloxypyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate | 760 mg, 66% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)N(C)C1=CC=C(C(=O)OC)C=C1 | C27H40N2O3Si
